US04868339
A solution of acetic anhydride (0.23 mL) in dichloromethane (2 mL) was reacted with a mixture of 2,2,4,6,6-pentamethyl-γ-methylene-3-cyclohexene-1-propanol (0.56 g, 0.0025 mol), triethylamine (0.41 mL), 4-dimethylaminopyridine (0.031 g) and dichloromethane at 25° C. Work-up, chromatography and distillation gave 0.60 g of 2,2,4,6,6-pentamethyl-γ-methylene-3-cyclohexene-1-propanol acetate bp (kugelrohr bath 110°-120° C.), 0.5 mm (GLC purity: 88%). 1H-NMR (60 MHz, CDCl3) δ0.93 (6H, s), 1.00 and 1.02 (6H, 2s), 1.60 (3H, s), 2.00 (3H, s), 0.9-2.6 (5H, m), 4.20 (1H, t, J=7 Hz), 4.86-5.07 (3H, m); IR (film) vmax 2960, 1735, 1635, 1440, 1370, 1350 cm-1 ; MS (m/e) 264, 249, 221, 204, 189, 108, 96.

reactant | acetic anhydride | 0.23 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,2,4,6,6-pentamethyl-γ-methylene-3-cyclohexene-1-propanol | 0.0025 mol, 0.56 g | CC1(C(C(CC(=C1)C)(C)C)C(CCO)=C)C | C15H26O
reactant | triethylamine | 0.41 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.031 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2,2,4,6,6-pentamethyl-γ-methylene-3-cyclohexene-1-propanol acetate | 0.60 g | C(C)(=O)OCCC(C1C(C=C(CC1(C)C)C)(C)C)=C | C17H28O2
